US07144899B2
Step E: N-(tert-butoxycarbonyl)-4-methyl-D-leucyl-N-[2-(1H-tetraazol-1-yl)-5-(trifluoromethyl)benzyl]-L-prolinamide
A mixture of N-[2-(1H-tetraazol-1-yl)-5-(trifluoromethyl)benzyl]-L-prolinamide hydrochloride (35 mg, 0.09 mmol), N-(tert-butoxycarbonyl)-4-methyl-D-leucine (24 mg, 0.10 mmol), EDC (27 mg, 0.14 mmol), HOAt (6.3 mg, 0.05 mmol) and Hünig's base (34 mL, 0.20 mmol) in DMF (1.2 mL) was stirred at room temperature for 16 h. The title compound was isolated by extractive workup (EtOAc) and silica gel chromatography (60%-80% EtOAc-hexanes) as an oily foam which was carried on directly to the deprotection step. 1H NMR (400 MHz, CDCl3): δ 9.20 (s, 1H), 7.88 (s, 1H), 7.78 (br m, 1H), 7.71 (d, J=8.2 Hz, 1H), 7.45 (d, J=8.0 Hz, 1H), 4.97 (d, J=6.0 Hz, 1H), 4.59 (d, J=6.4 Hz, 1H), 4.32–4.20 (m, 2H), 3.99–3.95 (m, 1H), 3.51–3.45 (m, 1H), 2.31–2.29 (m, 1H), 2.05–1.92 (m, 3H), 1.62–1.52 (m, 2H), 1.28 (s, 9H), 1.01 (s, 9H). LCMS (M+H): 568.3.

reactant | N-[2-(1H-tetraazol-1-yl)-5-(trifluoromethyl)benzyl]-L-prolinamide hydrochloride | 0.09 mmol, 35 mg | Cl.N1(N=NN=C1)C1=C(CNC([C@H]2NCCC2)=O)C=C(C=C1)C(F)(F)F
reactant | N-(tert-butoxycarbonyl)-4-methyl-D-leucine | 0.10 mmol, 24 mg | C(C)(C)(C)OC(=O)N[C@H](CC(C)(C)C)C(=O)O | C12H23NO4
reactant | EDC | 0.14 mmol, 27 mg
reactant | HOAt | 0.05 mmol, 6.3 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | Hünig's base | 0.20 mmol, 34 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(tert-butoxycarbonyl)-4-methyl-D-leucyl-N-[2-(1H-tetraazol-1-yl)-5-(trifluoromethyl)benzyl]-L-prolinamide | C(C)(C)(C)OC(=O)N[C@H](CC(C)(C)C)C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)C(F)(F)F)N2N=NN=C2)CCC1 | C26H36F3N7O4
